US04151205
(S)-(+)tert. Butyl 3-tert. butoxy-2-methylpropionate
A solution of 8.7 g. of S-(+)-β-hydroxyisobutyric acid in 140 ml. of CH2Cl2 was stirred and cooled to -72° C. (dry ice-acetone bath) whereupon 70 ml. of liquid isobutylene was added rapidly. To the resulting mixture was added with stirring at -72° C., a solution of 1.6 ml. of phosphoric acid (prepared by dissolving 5 g. of phosphorus pentoxide in 11 ml. of 85% by weight phosphoric acid) in 10 ml. of CH2Cl2, dropwise followed by 3.5 ml. of boron trifluoride etherate also dropwise. The resulting mixture was stirred at -72° C. for 2 hours and at 0-5° C. (ice bath) for 20 hours then treated with 300 g. of ice-water followed by a solution of 19 g. of NaHCO3 in 200 ml. of water. The CH2Cl2 layer was removed and the aqueous layer was extracted twice with CH 2 Cl2. The combined organic extracts were washed twice with brine then dried (MgSO4), filtered and concentrated in vacuo giving 23.3 g. of crude product as a yellow oil. This material was chromatographed on 200 g. of silica gel. Elution with 19:1 parts by volume and 9:1 parts by volume hexane-ether gave the desired product which was distilled yielding 12.7 g. (79%) of the ether ester (S)-(+)-tert. butyl 3-tert. butoxy-2-methylpropionate as a colorless liquid, b.p. 99° C. (22 mm Hg.); [α]25D+ 19.52° (c 4.25, CH3OH).

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | isobutylene | CC(C)=C | C4H8
reactant | phosphoric acid | 11 ml, 5 g | P(O)(O)(O)=O | H3O4P
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-(+)tert. Butyl 3-tert. butoxy-2-methylpropionate | C(C)(C)(C)OC[C@@H](C(=O)OC(C)(C)C)C | C12H24O3
